Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Valium / Biaxin / Levaquin / Ace Inhibitors / Bactrim / 
Ciprofloxacin / Vicodin ES / metoprolol
 
Attending: ___.
 
Chief Complaint:
gangrene of toes bilaterally
 
Major Surgical or Invasive Procedure:
___: Amputations of toes: Right 2,3,4 and Left great toe

 
History of Present Illness:
___ year old female who has had right leg bypass in past and now 
comes in for bilateral gangrene of toes amputation.
 
Past Medical History:
- Hypertension  
- paroxysmal atrial fibrillation on warfarin (target INR ___  
- valvular heart disease (mitral regurgitation)  
- tachy/brady syndrome s/p PPM ___. Patient experienced some 
syncopal episodes before pacemaker placement.  
Unable to find last interrogation report in ___ system  
- osteoporosis  
- GERD  
- chronic kidney disease  
- obstructive sleep apnea  
- Anemia secondary to chronic disease  
- history of herpes zoster with post-herpetic neuralgia  
Past surgical history  
- aforementioned SFA operation recently  
- ___ BLE angio, unable to cross R SFA, ___ R.  
- CFA endarterectomy/vein patch angioplasty, ___  
- RLE Angiogram,  
- s/p total abdominal hysterectomy in ___  
- s/p appendectomy  
- s/p Tonsillectomy and adenectomy
 
Social History:
___
Family History:
Father - died of pancreatic CA
Mother - died of "heart disease"

 
Physical Exam:
on discharge:

NAD
RRR
CTAB
Abd soft NT ND
Ext: right foot with minimal drainage, wound closed with 
dermabond and appears well, Left foot great toe site with 
minimal drainage.

Pulses:
    Fem  Pop  DP       ___
R    p    p   dop   dop
L    p    p   dop   dop
 
Pertinent Results:
___ 07:45AM BLOOD WBC-10.1 RBC-3.56* Hgb-9.1* Hct-29.4* 
MCV-83 MCH-25.4* MCHC-30.7* RDW-15.8* Plt ___
___ 06:55AM BLOOD WBC-9.9 RBC-3.25* Hgb-8.2* Hct-26.7* 
MCV-82 MCH-25.1* MCHC-30.6* RDW-15.8* Plt ___
___ 07:20AM BLOOD WBC-10.1 RBC-3.64* Hgb-9.2* Hct-31.2* 
MCV-86 MCH-25.3* MCHC-29.5* RDW-16.3* Plt ___
___ 07:45AM BLOOD WBC-8.0 RBC-3.78* Hgb-9.6* Hct-32.4* 
MCV-86 MCH-25.4* MCHC-29.6* RDW-16.4* Plt ___
___ 07:50AM BLOOD ___ PTT-29.2 ___
___ 06:00AM BLOOD ___ PTT-54.7* ___
___ 07:20AM BLOOD ___ PTT-33.9 ___
___ 07:45AM BLOOD ___ PTT-25.9 ___
___ 07:50AM BLOOD Glucose-88 UreaN-18 Creat-1.1 Na-138 
K-4.3 Cl-103 HCO3-23 AnGap-16
___ 07:45AM BLOOD Glucose-92 UreaN-18 Creat-1.2* Na-138 
K-4.7 Cl-104 HCO3-26 AnGap-13
___ 07:50AM BLOOD Calcium-8.7 Phos-3.9 Mg-2.1

 
Brief Hospital Course:
The patient was admitted to the surgery service for evaluation 
and treatment following elective toe amputations for dry 
gangrene on both the right and left feet.
 
Neuro: The patient received fentanyl patch, which she comes in 
on from home, with good effect and adequate pain control. When 
tolerating oral intake, the patient was transitioned to oral 
pain medications.  
 
CV:  The patient was stable from a cardiovascular standpoint;  
vital signs were routinely monitored. She was restarted on her 
home dose of coumadin and was not bridged as it was thought that 
for AF she would be able to slowly return to ___ 
state. INR goal ___. 
 
Pulmonary:  The patient was stable from a pulmonary standpoint; 
vital signs were routinely monitored.  Good pulmonary toilet, 
early ambulation and incentive spirometry were encouraged 
throughout this hospitalization.  
 
GI/GU/FEN: 
Post operatively, the patient was made NPO with IVF.  
The patient's diet was advanced when appropriate, which was 
tolerated well.  
The patient's intake and output were closely monitored, and IVF 
were adjusted when necessary.  The patient's electrolytes were 
routinely followed during this hospitalization, and repleted 
when necessary.  
 
ID: The patient's white blood count and fever curves were 
closely watched for signs of infection. Her feet looked well 
throughout with minimal drainage. ___ as started on a 10 day 
total course of antibiotics that is due to end by .........
 
Endocrine:  The patient's blood sugar was monitored throughout 
this stay; insulin dosing was adjusted accordingly. 
 
Hematology:  The patient's complete blood count was examined 
routinely; no transfusions were required during this stay. She 
was restarted on her home coumadin dosing on ___. Her  INR 
was followed and it was thought that she did not require a 
bridge.
 
Prophylaxis:  The patient received subcutaneous heparin during 
this stay, and was encouraged to get up and ambulate as early as 
possible.  
 
At the time of discharge, the patient was doing well, afebrile 
with stable vital signs.  The patient was tolerating a regular 
diet, ambulating, voiding without assistance, and pain was well 
controlled. Physical therapy was working the patient and felt 
that a rehab faiclity was the safest way to proceed to get the 
patient ready prior to returning home. 

 
Medications on Admission:
AMLODIPINE 5', ATORVASTATIN 10', DILTIAZEM 180', FENTANYL 12 
mcg/hour q72Hr, GABAPENTIN 300''', HYDROMORPHONE ___ PRN'''', 
OMEPRAZOLE 20',  ACETAMINOPHEN 325 prn, ASPIRIN 325', 
CHOLECALCIFEROL ___, DOCUSATE SODIUM 100'', POLYETHYLENE 
GLYCOL 3350, SODIUM BICARB-SODIUM CHLORIDE, WHEAT DEXTRIN 

 
Discharge Medications:
1. aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
2. fentanyl 12 mcg/hr Patch 72 hr Sig: One (1) Patch 72 hr 
Transdermal Q72H (every 72 hours).  
3. gabapentin 300 mg Capsule Sig: One (1) Capsule PO TID (3 
times a day).  
4. amlodipine 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

5. hydromorphone 2 mg Tablet Sig: ___ Tablets PO Q4H (every 4 
hours) as needed for pain.
Disp:*25 Tablet(s)* Refills:*0*
6. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
7. atorvastatin 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
8. diltiazem HCl 180 mg Capsule, Extended Release Sig: One (1) 
Capsule, Extended Release PO DAILY (Daily).  
9. amoxicillin-pot clavulanate 875-125 mg Tablet Sig: One (1) 
Tablet PO Q12H (every 12 hours): For 10 days.  Started ___. 
Last day should be ___.
Disp:*10 Tablet(s)* Refills:*0*
10. warfarin 2.5 mg Tablet Sig: One (1) Tablet PO DAYS 
(___).  
11. warfarin 5 mg Tablet Sig: One (1) Tablet PO DAYS (___). 
 
12. heparin (porcine) 5,000 unit/mL Solution Sig: One (1)  
Injection TID (3 times a day).  
13. senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.  
14. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID 
(2 times a day).  
15. acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q8H 
(every 8 hours) as needed for pain.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Dry gangrene great toe left foot and ___ toes on right foot.
Peripheral Arterial Disease 

 
Discharge Condition:
Mental Status: Clear and coherent.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
You were admitted to the hospital after amputaton of the ___, 
___ and ___ toes on your right foot and the great toe on your 
left foot.   We have given you special shoes to protect the 
area. Please keep the area covered with a dressing and dry.  You 
may shower but 

DO NOT get the incision wet. 

Limit strenuous activity and or heavy lifting until the wound is 
well healed. Activity may prevent the wound from healing.

Try to keep your legs elevated when not in use. This decreases 
swelling to the affected wound and helps in the healing process

 
Followup Instructions:
___